US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 3,5-dichloro-4-hydroxyaniline were reacted to produce 5-Fluoro-N2-(3,5-dichloro-4-hydroxyphenyl)-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.47 (bs, 1H), 9.35 (bs, 1H), 9.22 (bs, 2H), 8.09 (d, 1H, J=3.6 Hz), 7.70 (s, 2H), 7.31 (dd, 1H, J=1.2 and 9.3 Hz), 7.10 (t, 1H, J=7.5 Hz), 7.00 (bs, 1H), 6.48 (dd, 1H, J=1.2 and 6.9 Hz); LCMS: purity: 93%; MS (m/e): 382(MH+).

reactant | 2-chloro-5-fluoro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C10H7ClFN3O
reactant | 3,5-dichloro-4-hydroxyaniline | ClC=1C=C(N)C=C(C1O)Cl | C6H5Cl2NO
product | 5-Fluoro-N2-(3,5-dichloro-4-hydroxyphenyl)-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=C(C(=C1)Cl)O)Cl)NC1=CC(=CC=C1)O | C16H11Cl2FN4O2
